US07749972B2
To a mixture of 7-hydroxy-1-{2-[4-(3,3-dimethoxy-propoxy)phenyl]ethyl}-1H-indole (1.57 g), 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide (2.56 g) and benzyltri-(n-butyl)ammonium chloride (1.38 g) in methylene chloride (15 mL) was added 5 mol/L aqueous sodium hydroxide solution (2.7 mL), and the mixture was stirred at room temperature for 2 days. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: n-hexane/ethyl acetate=1/1), and purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1-4/1) to give 1-{2-[4-(3,3-dimethoxypropoxy)phenyl]ethyl}-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole (1.05 g). This material was dissolved in acetone (12 mL). To the solution were added water (6 mL) and oxalic acid dihydrate, and the mixture was heated for reflux for 2 hours. To the reaction mixture was added piperazine (0.64 g), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate solution was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1), and purified by column chromatography on aminopropylated silica gel (n-hexane/ethyl acetate=4/1-3/1-2/1) to give the title compound (0.31 g).

reactant | 7-hydroxy-1-{2-[4-(3,3-dimethoxy-propoxy)phenyl]ethyl}-1H-indole | 1.57 g | OC=1C=CC=C2C=CN(C12)CCC1=CC=C(C=C1)OCCC(OC)OC | C21H25NO4
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide | 2.56 g | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
reactant | sodium hydroxide | 5 mol/L, 2.7 mL | [OH-].[Na+]
catalyst | benzyltri-(n-butyl)ammonium chloride | 1.38 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-{2-[4-(3,3-dimethoxypropoxy)phenyl]ethyl}-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole | 1.05 g | COC(CCOC1=CC=C(C=C1)CCN1C=CC2=CC=CC(=C12)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)OC | C47H67NO13
